US06579884B1
Synthesis of 2-bromo-3-methylbenzylcyanid
A mixture of 2-bromo-3-methylbenzylbromide (25 g, 0.095 mol) and potassium cyanide (16 g, 0.25 mol) in dimethylformamide (100 ml) was stirred at 90° C. for 20 h. The solvent was evaporated under reduced pressure and to the residue were added toluene and water. The organic layer was separated washed with water, separated and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using methylene chloride as eluent gave 8.8 g (44%) of the title compound.

reactant | 2-bromo-3-methylbenzylbromide | 0.095 mol, 25 g | BrC1=C(CBr)C=CC=C1C | C8H8Br2
reactant | potassium cyanide | 0.25 mol, 16 g | [C-]#N.[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-bromo-3-methylbenzylcyanid | 8.8 g, 44% | BrC1=C(CC#N)C=CC=C1C | C9H8BrN
